US07691843B2
To a solution of (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid (110 mg, 0.33 mmol, 1 eq.) in dry DMF (2.5 mL) were added HATU (150 mg, 0.39 mmol, 1.2 eq.), DIEA (0.23 mL, 1.31 mmol, 4.0 eq.), HOBt (50 mg, 0.39 mmol, 1 eq.) and the mixture was cooled to 0° C. then the O-benzylhydroxylamine hydrochloride (63 mg, 0.39 mmol, 1.2 eq.) was added. The resulting mixture was stirred at 0° C. for 1 h, and then at room temperature overnight. The reaction was diluted with EtOAc, washed with 1M aqueous HCl solution, saturated NaHCO3 solution, and brine. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to give (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid benzyloxyamide in 68% yield, which was used without further purification. ESMS: m/z 441.3 [M+H].

reactant | (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid | 0.33 mmol, 110 mg, 1 eq. | COC=1C=C(C(=O)N2[C@H]([C@@H](C2)CC)C(=O)O)C=C(C1OC)CCC | C18H25NO5
reactant | HATU | 0.39 mmol, 150 mg, 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.31 mmol, 0.23 mL, 4.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.39 mmol, 50 mg, 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-benzylhydroxylamine hydrochloride | 0.39 mmol, 63 mg, 1.2 eq. | Cl.C(C1=CC=CC=C1)ON
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (+)-trans-1-(3,4-dimethoxy-5-propylbenzoyl)-3-ethylazetidine-2-carboxylic acid benzyloxyamide | 68% yield | C(C1=CC=CC=C1)ONC(=O)[C@@H]1N(C[C@H]1CC)C(C1=CC(=C(C(=C1)CCC)OC)OC)=O | C25H32N2O5
